US04263040
4-[4-(4-chlorophenoxy)phenoxy]2-pentenoic acid dimethylamine salt
In 15 ml of 10% dimethylamine aqueous solution, 7.0 g (0.02 mole) of 4-[4-(4-chlorophenoxy)phenoxy]2-pentenoic acid was dissolved and then, excess of dimethylamine and water was removed by a rotary evaporator to obtain 6.5 g of an orange viscous liquid, (yield: 92.2%).

reactant | 4-[4-(4-chlorophenoxy)phenoxy]2-pentenoic acid | 0.02 mole, 7.0 g | ClC1=CC=C(OC2=CC=C(OC(C=CC(=O)O)C)C=C2)C=C1 | C17H15ClO4
reactant | dimethylamine | 15 ml | CNC | C2H7N
product | 4-[4-(4-chlorophenoxy)phenoxy]2-pentenoic acid dimethylamine salt | 6.5 g, yield: 92.2% | CNC.ClC1=CC=C(OC2=CC=C(OC(C=CC(=O)O)C)C=C2)C=C1 | InChI=1S/C17H15ClO4.C2H7N/c1-12(2-11-17(19)20)21-14-7-9-16(10-8-14)22-15-5-3-13(18)4-6-15;1-3-2/h2-12H,1H3,(H,19,20);3H,1-2H3
